US05273999
Preparation of 4-[(5-Bromopentyl)oxy]-3-(3-ethoxy-3-oxopropyl)-δ-oxobenzenepentanoic Acid Ethyl Ester
Starting with 0.332 g (0.99 mmol) of 3-(3-ethoxy-3-oxopropyl)-4-hydroxy-δ-oxobenzenepentanoic acid ethyl ester, and 1.16 g (5.04 mmol) of 1,5-dibromopentane, the title compound was obtained in 85.7% yield as a white solid, mp 48°-49° C., using the procedure of example 21.

reactant | 3-(3-ethoxy-3-oxopropyl)-4-hydroxy-δ-oxobenzenepentanoic acid ethyl ester | 0.99 mmol, 0.332 g | C(C)OC(CCCC(C1=CC(=C(C=C1)O)CCC(=O)OCC)=O)=O | C18H24O6
reactant | 1,5-dibromopentane | 5.04 mmol, 1.16 g | BrCCCCCBr | C5H10Br2
product | 4-[(5-Bromopentyl)oxy]-3-(3-ethoxy-3-oxopropyl)-δ-oxobenzenepentanoic Acid Ethyl Ester | 85.7% yield | C(C)OC(CCCC(C1=CC(=C(C=C1)OCCCCCBr)CCC(=O)OCC)=O)=O | C23H33BrO6
